US08183380B2
[1-(Imidazole-1-sulfonyl)-piperidin-4-yl]-methanol was prepared in accordance with step A of the general method described in example 76 from 4-(hydroxymethyl)-piperidine and 3-(1H-imidazol-1-ylsulfonyl)-1-methyl-1H-imidazolium trifluoromethanesulfonate; MS: m/e=246.5 (M+H+).

reactant | 4-(hydroxymethyl)-piperidine | OCC1CCNCC1 | C6H13NO
reactant | 3-(1H-imidazol-1-ylsulfonyl)-1-methyl-1H-imidazolium trifluoromethanesulfonate | FC(S(=O)(=O)[O-])(F)F.N1(C=NC=C1)S(=O)(=O)N1C[NH+](C=C1)C
product | [1-(Imidazole-1-sulfonyl)-piperidin-4-yl]-methanol | N1(C=NC=C1)S(=O)(=O)N1CCC(CC1)CO | C9H15N3O3S
